US05342947
2'-Acetylamino-4',5'-methylenedioxy-2-chloroacetophenone, prepared in Example 1, part (B), is reacted with an excess of dimethylamine under similar conditions as taught in Example 1, part (H), to yield 2'-acetylamino-4',5'-methylenedioxy-2-dimethylaminoacetophenone which is turn is deprotected by the procedure of Example 1, part (E), to yield 2'-amino-4',5'-methylenedioxy-2-dimethylaminoacetophenone.

reactant | 2'-Acetylamino-4',5'-methylenedioxy-2-chloroacetophenone | C(C)(=O)NC1=C(C=C2C(=C1)OCO2)C(CCl)=O | C11H10ClNO4
reactant | dimethylamine | CNC | C2H7N
product | 2'-acetylamino-4',5'-methylenedioxy-2-dimethylaminoacetophenone | C(C)(=O)NC1=C(C=C2C(=C1)OCO2)C(CN(C)C)=O | C13H16N2O4
